US06271406B1
Preparation of 1,2-bis(chlorodimethylsilyl)propane C7H16Si2Cl2
Example 1 was repeated with the modification that, instead of 300.0 (1.41 mol) of 1,2-bis(chlorodimethylsilyl)ethene, 300.0 g (1.32 mol) of 1,2-bis(dichlorodimethylsilyl)prop-1-ene were used. The results are summarized in Table 1.

reactant | 1,2-bis(chlorodimethylsilyl)ethene | Cl[Si](C=C[Si](C)(C)Cl)(C)C | C6H14Cl2Si2
reactant | 1,2-bis(dichlorodimethylsilyl)prop-1-ene | 1.32 mol, 300.0 g | ClC([SiH](C=C(C)[SiH](C(Cl)Cl)C)C)Cl | C7H14Cl4Si2
product | 1,2-bis(chlorodimethylsilyl)propane | Cl[Si](CC(C)[Si](C)(C)Cl)(C)C | C7H18Cl2Si2
